********************************************************************************
*           Electronic circuit simulation file generated by gSpiceUI           *
*                         Version 1.1.00 (2015-04-29)                          *
********************************************************************************

* Schematic : /home/jsr/dev/crocolulo/simulations/h-bridge.sch

* Component Definitions
L1 13 5 3.6mH
R1 2 13 1.13R
R2 9 3 22R
R3 11 4 22R
R6 10 6 22R
R7 12 7 22R
R8 1 8 10mR
V1 8 0 DC 24V
V2 9 0 pulse 24.05 34.00 10n 680n 270n 450u 1.81m
V3 10 0 pulse 24.05 34.00 901u 680n 270n 450u 1.81m
V4 11 0 pulse 0.05 10 10n 680n 270n 450u 1.81m
V5 12 0 pulse 0.05 10 901u 680n 270n 450u 1.81m
X1 1 3 2 irl2203n
X2 2 4 0 irl2203n
X3 1 6 5 irl2203n
X4 5 7 0 irl2203n

* Sub-Circuit Definitions
.SUBCKT irl2203n 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Sep 27, 01
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=2.36103 LAMBDA=0.0325968 KP=204.753
+CGSO=3.1e-05 CGDO=1e-11
RS 8 3 0.00427452
D1 3 1 MD
.MODEL MD D IS=8.56401e-11 RS=0.00355838 N=1.14431 BV=30
+IBV=0.00025 EG=1 XTI=1 TT=0
+CJO=4e-09 VJ=1.16989 M=0.419864 FC=0.5
RDS 3 1 1e+06
RD 9 1 0.0001
RG 2 7 6
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.87864e-09 VJ=1.71885 M=0.867625 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.38961e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irl2203n

* NG-Spice Simulation Commands
.OPTIONS NOPAGE WIDTH=56 UNITS=RADIANS
.PRINT TRAN V(13,5)
.TRAN 10.00n 2.00m 0.00m

.END
